US08980322B2
2-(Methylamino)ethyl 4-trifluoromethoxybenzoate Hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl(methyl)carbamate (1.30 g) obtained in Reference Example 1 and ethyl acetate (10 mL) were added 4-trifluoromethoxybenzoyl chloride (1.83 g) and pyridine (0.72 mL). The mixture was stirred at 60° C. for 25 hrs. Ethyl acetate (60 mL) was added to the reaction mixture, and the mixture was washed with water (30 mL), a saturated aqueous sodium hydrogen carbonate solution (20 mL) and water (20 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride—ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 14.5 hrs., the mixture was concentrated under reduced pressure. The residue was washed twice with ethyl acetate (15 mL), and dried under reduced pressure at 60° C. to give the title compound (1.83 g) as a white solid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 1.30 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | 4-trifluoromethoxybenzoyl chloride | 1.83 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | pyridine | 0.72 mL | N1=CC=CC=C1 | C5H5N
solvent | Ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl 4-trifluoromethoxybenzoate Hydrochloride | 1.83 g | Cl.FC(OC1=CC=C(C(=O)OCCNC)C=C1)(F)F | InChI=1S/C11H12F3NO3.ClH/c1-15-6-7-17-10(16)8-2-4-9(5-3-8)18-11(12,13)14;/h2-5,15H,6-7H2,1H3;1H
